US05998433
c) Synthesis of N,N-dimethyl-[6-[4-(2-furoyl)benzoyl]-4,5,6,7-tetrahydrofuro[2,3-c]pyridin-2-ylmethyl]amine hydrochloride
N,N-Dimethyl-[6-[4-(2-furoyl)benzoyl]-4,5,6,7-tetrahydrofuro[2,3-c]pyridin-2-ylmethyl]amine 0.310 g was dissolved in 2 ml of methanol; hydrogen chloride in methanol was added in excess, followed by stirring. This mixture was then concentrated to yield the desired product.

reactant | N,N-Dimethyl-[6-[4-(2-furoyl)benzoyl]-4,5,6,7-tetrahydrofuro[2,3-c]pyridin-2-ylmethyl]amine | 0.310 g | CN(C)CC1=CC2=C(CN(CC2)C(C2=CC=C(C=C2)C(=O)C=2OC=CC2)=O)O1 | C22H22N2O4
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | 2 ml | CO | CH4O
product | N,N-dimethyl-[6-[4-(2-furoyl)benzoyl]-4,5,6,7-tetrahydrofuro[2,3-c]pyridin-2-ylmethyl]amine hydrochloride | Cl.CN(C)CC1=CC2=C(CN(CC2)C(C2=CC=C(C=C2)C(=O)C=2OC=CC2)=O)O1 | InChI=1S/C22H22N2O4.ClH/c1-23(2)13-18-12-17-9-10-24(14-20(17)28-18)22(26)16-7-5-15(6-8-16)21(25)19-4-3-11-27-19;/h3-8,11-12H,9-10,13-14H2,1-2H3;1H
